US06048856
A mixture of 5-(3-bromopropylidene)-5H-dibenzo[a,d]cycloheptene (4.45 g, 14.2 mmol), ethyl 4-cyclohexyl-4-piperidinecarboxylate (3.4 g, 14.2 mmol, prepared similarly as described in Brit. 1 124 661 (1967)), potassium carbonate (2.1 g, 15.2 mmol) and N,N-dimethylformamide (10 ml) was heated at 120° C. for 5 h. Benzene (50 ml) and water (50 ml) were added and the phases were separated. The organic phase was dried and the solvent evaporated in vacuo. The residue was purified by chromatography on silica gel (50 g) using mixtures of benzene and chloroform as eluents to give 2.6 g (39%) of 1-(3-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-4-cyclohexyl4-piperidinecarboxylic acid ethyl ester as an oil.

reactant | 5-(3-bromopropylidene)-5H-dibenzo[a,d]cycloheptene | 14.2 mmol, 4.45 g | BrCCC=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H15Br
reactant | ethyl 4-cyclohexyl-4-piperidinecarboxylate | C1(CCCCC1)C1(CCNCC1)C(=O)OCC | C14H25NO2
reactant | potassium carbonate | 15.2 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | Benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(3-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-4-cyclohexyl4-piperidinecarboxylic acid ethyl ester | 2.6 g, 39% | C(C)OC(=O)C1(CCN(CC1)CCC=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)C2CCCCC2 | C32H39NO2
